US04985419
1,2-Diaminocyclohexane (10.57 g) is added to an ethanolic solution (40 cc), saturated with hydrogen sulphide, of 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide, D series (3.65 g). The mixture is heated in an autoclave to 150° C. for 11 hours, then diluted with ethyl acetate (250 cc) and washed with distilled water (4×200 cc). The organic phase is separated after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is diluted in boiling absolute ethanol (200 cc) and a small amount of insoluble matter is filtered off. The filtrate is stirred at 25° C. for 2 hours and then cooled to 5° C. for 12 hours. The precipitate formed is filtered off, washed with cold ethanol (3×10 cc) and dried under reduced pressure (5 mm Hg; 0.67 kPa) at 40° C. to give 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-(hydroxymethyl)pyrrolidinyl]-2-propyl}phenothiazine, D series (1.1 g) in the form of a cream-coloured solid.

reactant | 1,2-Diaminocyclohexane | 10.57 g | NC1C(CCCC1)N | C6H14N2
reactant | hydrogen sulphide | S | H2S
reactant | 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide | OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C21H25N3OS2
solvent | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
product | 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-(hydroxymethyl)pyrrolidinyl]-2-propyl}phenothiazine | N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2[C@H](CCC2)CO)C | C27H34N4OS
